US07700623B2
To an ethanol (5 mL) suspension of 0.50 g of tert-butyl=[1-amino-1-(4-{3-[1-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-4-piperidinyl]propoxy}phenyl)methylidene]carbamate was added 1 mL of hydrochloric acid at room temperature, which was then stirred at the same temperature for 15 hours and 30 minutes. To the reaction mixture was added 4 mL of hydrochloric acid at room temperature, which was then stirred at the same temperature for 2 hours and 30 minutes. The solvent was distilled off under reduced pressure, and water was then added, followed by adjustment to pH 12.5 using a 5 mol/L sodium hydroxide aqueous solution. The precipitate was collected by filtration and washed with water. The resultant solid was dissolved in 1 mol/L hydrochloric acid, followed by distilling off the solvent under reduced pressure before purification using silica gel column chromatography (silica gel: ODS-A from YMC, eluent; water:ethanol=95:5). The eluate was concentrated to about 20 mL, which was then adjusted to pH 12.5 using a 5 mol/L sodium hydroxide aqueous solution. The precipitate was collected by filtration and washed with water to provide 0.17 g of 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}-N′-hydroxybenzamidine as white solid form.

reactant | [1-amino-1-(4-{3-[1-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-4-piperidinyl]propoxy}phenyl)methylidene]carbamate | NC(C1=CC=C(C=C1)OCCCC1CCN(CC1)CCCOC1=CC=C(C=C1)C(=NO)N)=NC([O-])=O
reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | hydrochloric acid | 4 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}-N′-hydroxybenzamidine | 0.17 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=NO)N)C=C2)C=C1)=N | C25H35N5O3
